US05763651
90.6 g (about 113 ml) of 20% potassium hydride in oil (density about 0.8) were washed twice with n-hexane under argon, and then treated with 700 ml of dimethoxyethane. Subsequently, a solution of 56.5 g (0.34 mol) of 2-methyl-but-3-enoic acid 2-chloroethyl ester with a content of 97.5% according to GC in 175 ml of dimethoxyethane was added thereto while stirring at 20° C. within 11/2 hours, and the mixture was stirred at room temperature for 1 hour. 250 ml of water were cautiously added dropwise thereto at 0°-5° C. The aqueous phase was then separated and extracted three times with three 300 ml portions, a total of 900 ml, of n-hexane. Washing of the combined organic phases with 250 ml of saturated sodium chloride solution, drying and concentration gave a yellow liquid (50.5 g; GC: 83.4%), which, after the addition of 40 mg of 2,6-di-tert.butyl-p-cresol, was fractionated on a Vigreux column (20 cm). This gave, at a boiling temperature of 93°-94° C./19 mbar, 28.22 g (66% yield) of 2-(1-methyl-allylidene)-[1,3]dioxolane as a colourless oil with a content of 100% according to GC.

reactant | 2-methyl-but-3-enoic acid 2-chloroethyl ester | 0.34 mol, 56.5 g | ClCCOC(C(C=C)C)=O | C7H11ClO2
reactant | water | 250 ml | O | H2O
reactant | 2,6-di-tert.butyl-p-cresol | 40 mg | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
solvent | dimethoxyethane | 175 ml | C(OC)COC | C4H10O2
product | 2-(1-methyl-allylidene)-[1,3]dioxolane | 28.22 g, 66% yield | CC(C=C)=C1OCCO1 | C7H10O2
